US07425634B2
(1e) 2-(((4-((5,5-dimethyl-1,3-dioxan-2-yl)methoxy)-3-methylpyridin-2-yl)methyl)thio)-1H-benzimidazole
The (4-((5,5-dimethyl-1,3-dioxan-2-yl)methoxy)-3-methylpyridin-2-yl)methanol (500 mg, 1.87 mmol) obtained by the step (1d) was mixed with triethylamine (1.04 ml, 7.48 mmol) and tetrahydrofuran (15 ml). This mixture was cooled to −19° C. and methanesulfonyl chloride (217 μl, 2.81 mmol) was added thereto and then stirred at −19° C. for 30 minutes. Under the same conditions, 2-mercaptobenzimidazole (309 mg, 2.06 mmol) was added to the reaction mixture. After the reaction mixture was stirred overnight at room temperature, methanol and NH silica gel were added to the mixture, and then, the solvent was distilled off. The mixture of the reaction mixture and NH silica gel was purified by silica gel column chromatography (silica gel: 80 g, elution solvent: ethyl acetate/heptane=1/1 to 4/1→methanol/ethyl acetate=1/9) to obtain the title compound (599 mg, yield: 80.2%) as a light red foam.

reactant | (4-((5,5-dimethyl-1,3-dioxan-2-yl)methoxy)-3-methylpyridin-2-yl)methanol | 1.87 mmol, 500 mg | CC1(COC(OC1)COC1=C(C(=NC=C1)CO)C)C | C14H21NO4
reactant | triethylamine | 7.48 mmol, 1.04 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.81 mmol, 217 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-mercaptobenzimidazole | 2.06 mmol, 309 mg | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-(((4-((5,5-dimethyl-1,3-dioxan-2-yl)methoxy)-3-methylpyridin-2-yl)methyl)thio)-1H-benzimidazole | 599 mg, yield: 80.2% | CC1(COC(OC1)COC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC=C2)C)C | C21H25N3O3S
